* Single Event Transient (SET) Radiation Hardness Test
*
* Simulates the effect of a high-energy particle strike on a circuit node.
* In space environments, cosmic rays or trapped particles can deposit charge
* in semiconductor junctions, causing transient voltage spikes (SETs).
*
* Model: A short-duration current pulse injected at a sensitive circuit node.
* The "double-exponential" model is standard for SET characterization:
*   I(t) = Q/(tau_f - tau_r) * (exp(-t/tau_f) - exp(-t/tau_r))
*
* Test circuit: Voltage regulator output feeding a sensitive analog input
* An SET at the regulator output could cause:
* 1. Downstream logic upset (if Vout exceeds VIH/VIL thresholds)
* 2. Latch-up (if current exceeds holding current)
* 3. Component damage (if voltage exceeds absolute max rating)
*
* Parameters based on typical LEO radiation environment:
*   LET (Linear Energy Transfer): 10-60 MeV·cm²/mg
*   Charge deposited: 0.5 - 5 pC typical

.title Single Event Transient (SET) Radiation Test

* =============================================
* Protected Power Rail: 3.3V regulator output
* =============================================
V_reg vcc_reg 0 DC 3.3
R_reg_out vcc_reg vcc 0.5

* Output capacitance (typical regulator + board decoupling)
C_out vcc 0 10u IC=3.3
C_decoup vcc 0 100n IC=3.3

* Load: MCU + peripherals (30mA)
R_load vcc 0 110

* =============================================
* SET Current Pulse Injection
* =============================================
* Double-exponential SET pulse at the power rail
* Charge deposited: ~2pC (moderate event)
* Rise time: 100ps, Fall time: 1ns
* Peak current: ~1mA (moderate LET)
*
* Multiple strikes at different times to test recovery
I_set1 0 vcc PULSE(0 1m 5u 100p 1n 0 100u)
I_set2 0 vcc PULSE(0 2m 10u 100p 1n 0 100u)
I_set3 0 vcc PULSE(0 5m 15u 100p 1n 0 100u)

* =============================================
* Sensitive downstream circuit: Comparator input
* =============================================
* Resistive divider to create a reference voltage (1.65V)
R_div1 vcc v_sense 10k
R_div2 v_sense 0 10k

* ADC input capacitance + filtering
C_adc v_sense 0 100p
R_filter vcc v_sense_filt 1k
C_filter v_sense_filt 0 1n

* =============================================
* SET at the sensitive analog node directly
* =============================================
* Moderate strike at the divider midpoint
* Q ≈ 10fC, representative of typical SET in hardened design
I_set_analog 0 v_sense PULSE(0 20u 20u 100p 500p 0 100u)

.tran 1n 30u UIC

.control
  run

  * === Power Rail Stability ===
  * Nominal voltage before first SET
  let v_nominal = -1
  meas tran v_nominal avg v(vcc) from=1u to=4u

  * Peak voltage after each SET strike
  let v_set1_peak = -1
  meas tran v_set1_peak max v(vcc) from=5u to=6u

  let v_set2_peak = -1
  meas tran v_set2_peak max v(vcc) from=10u to=11u

  let v_set3_peak = -1
  meas tran v_set3_peak max v(vcc) from=15u to=16u

  * Recovery time: how long until rail returns to within 1% of nominal
  let v_recovery_threshold = 3.3 * 1.01
  let t_set3_recover = -1
  meas tran t_set3_recover when v(vcc)=$&v_recovery_threshold fall=3

  * === Analog Node Stability ===
  let v_sense_nominal = -1
  meas tran v_sense_nominal avg v(v_sense) from=1u to=4u

  * Peak deviation after analog SET
  let v_sense_peak = -1
  meas tran v_sense_peak max v(v_sense) from=20u to=21u

  let v_sense_deviation = -1
  if $&v_sense_peak > 0
    if $&v_sense_nominal > 0
      let v_sense_deviation = v_sense_peak - v_sense_nominal
    end
  end

  * === Report ===
  echo "========================================="
  echo "  Radiation SET Test Report"
  echo "========================================="
  echo "Environment: LEO radiation model"
  echo "Protection: 10uF + 100nF decoupling"
  echo ""
  echo "--- Power Rail (3.3V) ---"
  echo "Nominal:        $&v_nominal V"
  echo "SET 1mA peak:   $&v_set1_peak V"
  echo "SET 2mA peak:   $&v_set2_peak V"
  echo "SET 5mA peak:   $&v_set3_peak V"
  echo ""
  echo "--- Analog Sense Node (1.65V nominal) ---"
  echo "Nominal:        $&v_sense_nominal V"
  echo "SET 0.5mA peak: $&v_sense_peak V"
  echo "Deviation:      $&v_sense_deviation V"

  echo "RESULT:vcc_nominal=$&v_nominal" > simulation_results.txt
  echo "RESULT:set_1mA_peak=$&v_set1_peak" >> simulation_results.txt
  echo "RESULT:set_2mA_peak=$&v_set2_peak" >> simulation_results.txt
  echo "RESULT:set_5mA_peak=$&v_set3_peak" >> simulation_results.txt
  echo "RESULT:sense_nominal=$&v_sense_nominal" >> simulation_results.txt
  echo "RESULT:sense_set_peak=$&v_sense_peak" >> simulation_results.txt
  echo "RESULT:sense_deviation=$&v_sense_deviation" >> simulation_results.txt

  * === Spec Checks ===
  let pass = 1

  * Check 1: Power rail stays below absolute max (3.6V typical for 3.3V parts)
  if $&v_set3_peak > 3.6
    echo "FAIL: Power rail exceeds absolute max rating ($&v_set3_peak V)"
    let pass = 0
  end

  * Check 2: Analog node SET peak stays within ±200mV of nominal
  * For 12-bit ADC at 3.3V: LSB = 0.8mV, 200mV = ~250 LSB
  if $&v_sense_deviation > 0.2
    echo "FAIL: Analog node SET deviation exceeds 200mV ($&v_sense_deviation V)"
    let pass = 0
  end

  * Check 3: Power rail recovers (measurements were successful)
  if $&v_nominal < 0
    echo "FAIL: Could not measure nominal voltage"
    let pass = 0
  end

  * Check 4: Nominal voltage is correct
  if $&v_nominal < 3.2
    echo "FAIL: Nominal voltage too low ($&v_nominal V)"
    let pass = 0
  end

  if $&pass > 0
    echo "PASS: Circuit survives SET events within specifications"
    echo "STATUS:PASS" >> simulation_results.txt
  else
    echo "STATUS:FAIL" >> simulation_results.txt
  end

  quit
.endc

.end
